US04902695
E. Preparation of ethyl decahydro-6-oxo-2-methoxycarbonyl-3-isoquinolinecarboxylate.
A mixture of 146.1 g of pyridinium chlorochromate, 146.1 g of powdered 4 Å sieves, and 1000 ml of methylene chloride was stirred for 1 hour at room temperature. A solution of 87.9 g of ethyl decahydro6-hydroxy-2-methoxycarbonyl-3-isoquinolinecarboxylate in 30 ml of methylene chloride was added dropwise in 200 ml of dichloromethane and the reaction mixture stirred for three hours at room temperature. Diethyl ether (1400 ml) was added to the mixture which was then filtered through a Celite® pad and silica gel pad. The filtrate was concentrated in vacuo, redissolved in diethyl ether, and again filtered through Celite and silica gel. Concentration of the filtrate afforded 78.4 g of the desired title product as a 28:72 mixture of equitorial: axial ester isomers. The residue was dissolved in 600 ml of ethanol, 1.11 g of sodium hydride dissolved in 60 ml of ethanol was added, and the mixture heated at 80° C. for 2.25 hours. The mixture was cooled and concentrated in vacuo. To the residue were added 700 ml of 1:1 dichloromethane/diethyl ether and this solution was washed with 300 ml of 10% aqueous sodium bisulfate. The organic layer was separated and the aqueous layer extracted three times with diethyl ether. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was filtered through silica gel with 40% ethyl acetate in hexane, and the filtrate was concentrated in vacuo to afford an oil. Crystallization from ether/hexane afforded 32.3 g of the desired subtitled intermediate, m.p. 79°-80° C., that was one compound by as determined by gas chromatography. By 1H NMR and X-ray crystallographic analysis, this ketone was determined to be ethyl 1a-R*-3-R*-4a-R*-decahydro-6-oxo-2-methoxycarbonyl-3-isoquinolinecarboxylate. It is assumed that this stereochemistry carries forward to each of the final products.

reactant | pyridinium chlorochromate | 146.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ethyl decahydro6-hydroxy-2-methoxycarbonyl-3-isoquinolinecarboxylate | 87.9 g | OC1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H23NO5
reactant | Diethyl ether | 1400 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | ethyl decahydro-6-oxo-2-methoxycarbonyl-3-isoquinolinecarboxylate | 78.4 g | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
